US07135472B2
Step B: (S)-1-(3-Oxazol-4-yl-phenyl)-ethylamine
To a solution of (S)-[1-(3-formyl-phenyl)-ethyl]-carbamic acid tert-butyl ester (500 mg, 2 mmol) and tosylmethylisocyanide (391 g, 2 mmol) in ethanol (5 mL) was added potassium carbonate (277 mg, 2 mmol), and the reaction mixture was heated at reflux for 24 h. The reaction mixture was cooled down to room temperature and filtered. The filtrate was evaporated in vacuo, and the residue was purified by preparative HPLC (5 mM NH4OAc buffer; gradient 0% to 100% B in 10 min (A: 10 % CH3CN/H2O, B: 90% CH3CN/H2O); column: YMC 20×100 mm C-18 ) to provide the title compound (280 mg, 48% yield) as a brown oil.

reactant | (S)-[1-(3-formyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 2 mmol, 500 mg | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)C=O)=O | C14H19NO3
reactant | tosylmethylisocyanide | 2 mmol, 391 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 2 mmol, 277 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (S)-1-(3-Oxazol-4-yl-phenyl)-ethylamine | 280 mg, 48% yield | O1C=NC(=C1)C=1C=C(C=CC1)[C@H](C)N | C11H12N2O
